US08431563B2
To a 2 mL microwave vial was added 2-(4-(4-((6-chloropyridazin-3-yl)sulfonyl)piperazin-1-yl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (50 mg, 0.099 mmol), EtOH (1.0 mL) and ammonium hydroxide (2.0 mL, 51 mmol). The solution was heated in an Emrys Optimizer microwave reactor (Personal Chemistry, Biotage AB, Inc., Uppsala, Sweden) at 110° C. for 1 h and then concentrated. The resulting material was purified by silica gel chromatography (0 to 4% MeOH in CH2Cl2) to afford 2-(4-(4-((6-aminopyridazin-3-yl)sulfonyl)piperazin-1-yl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (29 mg) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.40 (s, 1H), 7.67 (d, J=9.4 Hz, 1H), 7.47 (d, J=8.6 Hz, 2H), 7.28 (s, 2H), 7.02 (d, J=9.0 Hz, 2H), 6.89 (d, J=9.2 Hz, 1H), 3.29-3.33 (m, 4H), 3.22-3.28 (m, 4H). m/z (ESI, +ve ion) 485.9 (M+H)+. GK-GKRP IC50 (Binding)=0.285 μM; GK-GKRP EC50 (LC MS/MS-2)=0.302 μM.

reactant | 2-(4-(4-((6-chloropyridazin-3-yl)sulfonyl)piperazin-1-yl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.099 mmol, 50 mg | ClC1=CC=C(N=N1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C17H15ClF6N4O3S
reactant | ammonium hydroxide | 51 mmol, 2.0 mL | [OH-].[NH4+]
solvent | EtOH | 1.0 mL | CCO | C2H6O
product | 2-(4-(4-((6-aminopyridazin-3-yl)sulfonyl)piperazin-1-yl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 29 mg | NC1=CC=C(N=N1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C17H17F6N5O3S
